US07199239B2
(4-{[Butyl(2,4′-dimethyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetic acid (Method B)
Ethyl (4-{[butyl(2,4′-dimethyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetate (12.7 g, 27.6 mmol) was dissolved in THF (210 mL) and water (70 ml) was added, followed by 2M aq. NaOH (61 mL, 122 mmol). The reaction was stirred at room temperature for 1/2 hr and then evaporated to give a white slurry. The suspension was diluted with water (100 mL) and pH adjusted to pH7 with 2M aq HCl. EtOAc (200 mL) the aqueous layer was separated and extracted with EtOAc (2×100 mL). The combined organics were washed with brine (200 mL), dried (Na2SO4) and concentrated In vacuo to give the title compound as a white foam (11.1 g).

reactant | Ethyl (4-{[butyl(2,4′-dimethyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetate | 27.6 mmol, 12.7 g | C(CCC)N(C=1C(=C(C=CC1)C1=CC=C(C=C1)C)C)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C30H37NO3
reactant | NaOH | 122 mmol, 2M, 61 mL | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 210 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | water | 70 ml | O | H2O
product | (4-{[Butyl(2,4′-dimethyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetic acid | 11.1 g | C(CCC)N(C=1C(=C(C=CC1)C1=CC=C(C=C1)C)C)CC1=CC(=C(OCC(=O)O)C=C1)C | C28H33NO3
